US07863271B2
To a vigorously stirred suspension of lithium 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate (97 mg, 0.346 mmol) and NaHCO3 (87 mg, 1.037 mmol) in chloroform (6 mL) and H2O (6 mL) was added dropwise isobutyl chloroformate (54 mL, 0.415 mmol). The reaction mixture was stirred at room temperature for 2 h, then neutralized with 1N aqueous HCl, and concentrated under reduced pressure to provide 2-((2S,6S)-4-(isobutoxycarbonyl)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylic acid. MS consistent.

reactant | lithium 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate | 0.346 mmol, 97 mg | C[C@@H]1N([C@H](CNC1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)[O-].[Li+]
reactant | NaHCO3 | 1.037 mmol, 87 mg | C(=O)(O)[O-].[Na+]
reactant | isobutyl chloroformate | 0.415 mmol, 54 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HCl | 1N | Cl | ClH
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 6 mL | O | H2O
product | 2-((2S,6S)-4-(isobutoxycarbonyl)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylic acid | C(C(C)C)OC(=O)N1C[C@@H](N([C@H](C1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)O)C | C19H25N3O5
